US06831083B2
Concentrated hydrochloric acid (0.2 ml) was dropwise added to a solution of 4-chromanone (10 g), dimethylamine hydrochloride (7.1 g) and paraformaldehyde (2.6 g) dissolved in ethanol (20 ml). The mixture was refluxed for 2 hours with heating. The mixture was allowed to cool. The resulting crystals were collected by filtration, washed with acetone and dried to obtain 9 g of β-dimethylaminopropiophenone hydrochloride (yield: 55%).

reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | 4-chromanone | 10 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | dimethylamine hydrochloride | 7.1 g | Cl.CNC
reactant | paraformaldehyde | 2.6 g | C=O | CH2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | β-dimethylaminopropiophenone hydrochloride | 9 g, yield: 55% | Cl.CN(CCC(=O)C1=CC=CC=C1)C | InChI=1S/C11H15NO.ClH/c1-12(2)9-8-11(13)10-6-4-3-5-7-10;/h3-7H,8-9H2,1-2H3;1H
